US05223539
4-bromobenzoic acid N-tert-butyl-N-cyclohexyl amide
To a cold (0° C. to 5° C.) stirred solution of N-tertbutyl-N-cyclohexyl amine (3.73 g, 24 mmol) and triethylamine (2.5 g, 24 mmol) in dry THF (50 mL) is added dropwise a solution of acid chloride (5.0 g, 23 mmol) in THF (20 mL). The reaction is stirred at room temperature overnight and worked up in the same manner as for 4-bromo-3-methylbenzoic acid N-cyclopentyl-N-cyclohexyl amide. The crude product is purified by either recrystallization or by chromatography on silica gel using mixtures of ethyl acetate and hexane as eluents.

reactant | N-tertbutyl-N-cyclohexyl amine | 24 mmol, 3.73 g | C(C)(C)(C)NC1CCCCC1 | C10H21N
reactant | triethylamine | 24 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-3-methylbenzoic acid N-cyclopentyl-N-cyclohexyl amide | C1(CCCC1)N(C(C1=CC(=C(C=C1)Br)C)=O)C1CCCCC1 | C19H26BrNO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromobenzoic acid N-tert-butyl-N-cyclohexyl amide | C(C)(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C17H24BrNO
